US04232032
Diethylamine (0.8 g.) was added dropwise to a stirred suspension of 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-sulphonyl chloride (4.7 g.) in absolute ethanol (20 ml.), the mixture was maintained under gentle reflux for 2 hours, and the resulting solution was allowed to cool slowly to give a crystalline product, which was recrystallised from aqueous methanol to give 6-diethylsulphamoyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin, m.p. 125°-126° C.

reactant | Diethylamine | 0.8 g | C(C)NCC | C4H11N
reactant | 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-sulphonyl chloride | 4.7 g | ClC(C1OC2=C(C(O1)C(Cl)(Cl)Cl)C=C(C=C2)S(=O)(=O)Cl)(Cl)Cl | C10H5Cl7O4S
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-diethylsulphamoyl-2,4-bis(trichloromethyl)benzo[1,3]dioxin | C(C)N(S(=O)(=O)C=1C=CC2=C(C(OC(O2)C(Cl)(Cl)Cl)C(Cl)(Cl)Cl)C1)CC | C14H15Cl6NO4S
